US07122184B2
Selection of Antibodies by Direct ELISA for Terbinafine
Microtiter plates are coated with 5 μg/ml terbinafine hydrochloride—protein (BSA) conjugate in carbonate buffer overnight at 4°, then saturated with blocking reagent [SuperBloc® buffer (Pierce)] and washed 3× with 0.05% (v/v) PBS-TWEEN® (polyoxyethylene 20 sorbitan monoleate). The hybridoma supernatants to be screened are diluted in a 1% (w/v) solution of BSA in PBS-TWEEN® (polyoxyethylene 20 sorbitan monoleate), and incubated for 2 hours at 37°. Level of bound antibody is measured by anti-mouse IgG rabbit immunoglobulin coupled to horseradish peroxidase with OPD as the substrate. After incubation for one hour at room temperature the enzymatic substrate is hydrolyzed and absorbance at 490/650 nm is measured after 15 minutes incubation in the dark.

reactant | terbinafine hydrochloride | CC(C)(C)C#C/C=C/CN(C)CC=1C=CC=C2C1C=CC=C2.Cl
solvent | carbonate | C([O-])([O-])=O
product | Terbinafine | CC(C)(C)C#C/C=C/CN(C)CC=1C=CC=C2C1C=CC=C2 | C21H25N
